US06503949B1
To a solution of 4-formylbenzoic acid (27.4 g, 0.18 mol) in DMF (300 mL) was added N-ethyl-N′-3-dimethylaminopropylcarbodiimide (34.5 g, 0.18 mol) and N-hydroxybenzotriazole (29.9 g, 0.22 mol). The resulting mixture was stirred at room temperature for 1 hour, then β-alanine ethyl ester hydrochloride (65.4 g, 0.42 mol) and diisopropylethylamine (76 mL, 0.44 mol) was added. After 16 hours stirring at ambient temperature the reaction mixture was partitioned between water (600 mL) and ethyl acetate (600 mL). The organic phase was washed successively with hydrochloric acid (1N, 300 mL), saturated aqueous ammonium chloride (300 mL), water (2×300 mL) and brine (300 mL). The solvent was removed by rotary evaporation to leave an oil, which crystallised upon standing to afford 29.0 g (65%) of 3-(4-formylbenzoylamino)propionic acid ethyl ester.

reactant | 4-formylbenzoic acid | 0.18 mol, 27.4 g | C(=O)C1=CC=C(C(=O)O)C=C1 | C8H6O3
reactant | N-hydroxybenzotriazole | 0.22 mol, 29.9 g | ON1N=NC2=C1C=CC=C2 | C6H5N3O
reactant | β-alanine ethyl ester hydrochloride | 0.42 mol, 65.4 g | Cl.C(C)OC(CCN)=O
reactant | diisopropylethylamine | 0.44 mol, 76 mL | C(C)(C)N(CC)C(C)C | C8H19N
solvent | DMF | 300 mL | CN(C)C=O | C3H7NO
product | 3-(4-formylbenzoylamino)propionic acid ethyl ester | 29.0 g, 65% | C(C)OC(CCNC(C1=CC=C(C=C1)C=O)=O)=O | C13H15NO4
